US08022093B2
Preparation of crystalline Eltrombopag Mono-Ethanolamine Salt form H
Eltrombopag (15-20 mg) bisethanolamine was dissolved in 5 mL of 1-pentanol with heating to 70° C. and then was left to crystallize at 22° C. A precipitate formed and was separated by filtration and analysed. PXRD analysis provided the diffractogram as shown in FIG. 29.

reactant | Eltrombopag | 15-20 mg | CC=1C=CC(=CC1C)N2C(=O)/C(=N\NC=3C=CC=C(C3O)C=4C=CC=C(C4)C(=O)O)/C(=N2)C | C25H22N4O4
solvent | 1-pentanol | 5 mL | C(CCCC)O | C5H12O
product | Eltrombopag Mono-Ethanolamine | CC=1C=CC(=CC1C)N2C(=O)/C(=N\NC=3C=CC=C(C3O)C=4C=CC=C(C4)C(=O)O)/C(=N2)C.C(O)CN | InChI=1S/C25H22N4O4.C2H7NO/c1-14-10-11-19(12-15(14)2)29-24(31)22(16(3)28-29)27-26-21-9-5-8-20(23(21)30)17-6-4-7-18(13-17)25(32)33;3-1-2-4/h4-13,26,30H,1-3H3,(H,32,33);4H,1-3H2/b27-22-;
